US09023847B2
53. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(furan-3-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 3-furaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 382 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (1H, br. s.) 10.25 (1H, s) 7.93-8.05 (2H, m) 7.75 (1H, d, J=5.37 Hz) 7.52 (1H, t, J=1.61 Hz) 7.46 (1H, d, J=0.68 Hz) 7.44 (1H, d, J=5.42 Hz) 7.28 (1H, dd, J=3.20, 2.66 Hz) 6.77 (1H, d, J=5.42 Hz) 6.38-6.43 (2H, m) 3.49 (2H, s) 3.30-3.35 (2H, m) 2.60 (2H, t, J=6.49 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-furaldehyde | O1C=C(C=C1)C=O | C5H4O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(furan-3-ylmethyl)-amino]-ethyl}-amide | O1C=C(C=C1)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H19N5O2S
